US06429214B1
(2-Hydroxy-ethyl)-carbamic acid tert-butyl ester
A solution of 2-amino-ethan-1-ol (11.8 mL, 195 mmol) in 2:1 tert-butanol-water (330 mL) was treated with di-tert-butyl dicarbonate (40.8 g, 187 mmol) and potassium carbonate (51.5 g, 373 mmol) at 0° C. After 5-10 min when vigorous bubbling had subsided, the reaction slurry was warmed to room temperature. After 1.5 h, the mixture was concentrated to a wet paste and diluted with water (50 mL). The aqueous phase was extracted with ethyl acetate (3×150 mL), dried (K2CO3) and concentrated to give the title compound (29.4 g, 98% yield) as a pale yellow oil.

reactant | 2-amino-ethan-1-ol | 195 mmol, 11.8 mL | NCCO | C2H7NO
reactant | di-tert-butyl dicarbonate | 187 mmol, 40.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 373 mmol, 51.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | tert-butanol water | 330 mL | C(C)(C)(C)O.O
product | (2-Hydroxy-ethyl)-carbamic acid tert-butyl ester | 29.4 g, 98% yield | C(C)(C)(C)OC(NCCO)=O | C7H15NO3
